US07138406B2
(2R,3S,4aR,10aR)-4a-Ethyl-2-(pyridin-3-yl)-1,2,3,4,4a,9,10,10a-octahydrophenanthrene-2,3,7-triol
To a solution of (2R,3S,4aR,10aR)-7-(tert-butyl-dimethylsilanyloxy)-4a-ethyl-2-(pyridin-3-yl)-1,2,3,4,4a,9,10,10a-octahydrophenanthrene-2,3-diol (13 mg, 0.03 mmol) and acetic acid (0.05 mL, 0.87 mmol) in tetrahydrofuran (2 mL) was added a 1.0 M solution of tetrabutylammonium fluoride in tetrahydrofuran (0.13 mL, 0.13 mmol). The mixture was stirred overnight at room temperature and the concentrated under vacuum. The residue was taken up in ethyl acetate and filtered through a plug of silica gel. The title compound, a solid (4.2 mg, 43%) was obtained by evaporation of the solvent. 1H NMR (CDCl3) selected signals: δ 9.00 (br s, 1 H), 8.50 (d, J=8.3 Hz, 1 H), 8.26 (d, J=5.7 Hz, 1 H), 7.32 (dd, J=5.7, 7.8 Hz, 1 H), 6.94 (d, J=8.3 Hz, 1 H), 6.65 (dd, J=2.6, 8.3 Hz, 1 H), 6.60 (d, J=2.6 Hz, 1 H), 4.23 (dd, J=4.7, 13.0 Hz, 1 H). MS: m/e 340 (M+1).

reactant | (2R,3S,4aR,10aR)-7-(tert-butyl-dimethylsilanyloxy)-4a-ethyl-2-(pyridin-3-yl)-1,2,3,4,4a,9,10,10a-octahydrophenanthrene-2,3-diol | 0.03 mmol, 13 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C2[C@@]3(C[C@@H]([C@](C[C@H]3CCC2=C1)(O)C=1C=NC=CC1)O)CC | C27H39NO3Si
reactant | acetic acid | 0.87 mmol, 0.05 mL | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.13 mmol, 0.13 mL | O1CCCC1 | C4H8O
product | (2R,3S,4aR,10aR)-4a-Ethyl-2-(pyridin-3-yl)-1,2,3,4,4a,9,10,10a-octahydrophenanthrene-2,3,7-triol | C(C)[C@]12C[C@@H]([C@](C[C@H]2CCC2=CC(=CC=C12)O)(O)C=1C=NC=CC1)O | C21H25NO3
